US05086051
3-(4-Methyl-1-piperazinyl)propoxyamine trihydrochloride may be obtained in the following manner: a solution of N-[3-(4-methyl-1-piperazinyl)propoxy]phthalimide (5.7 g) in 6 N hydrochloric acid (30 cc) is heated to reflux for 3 hours. After 18 hours' stirring at a temperature in the region of 20° C., the suspension obtained is filtered and the filtrate is concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the region of 60° C. A crude product (6 g) is thereby obtained, which is resuspended in ethanol (30 cc). The crystals which appear are separated by filtration, washed 3 times with ethanol (45 cc in total) and then 3 times with ethyl ether (75 cc in total) and finally dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the region of 20° C. 3-(4-Methyl-1-piperazinyl)propoxyamine trihydrochloride (3.4 g) is thereby obtained in the form of cream-coloured crystals, m.p. 240° C.

reactant | N-[3-(4-methyl-1-piperazinyl)propoxy]phthalimide | 5.7 g | CN1CCN(CC1)CCCON1C(C=2C(C1=O)=CC=CC2)=O | C16H21N3O3
reactant | hydrochloric acid | 6 N, 30 cc | Cl | ClH
solvent | ethanol | 30 cc | C(C)O | C2H6O
product | 3-(4-Methyl-1-piperazinyl)propoxyamine trihydrochloride | 3.4 g | Cl.Cl.Cl.CN1CCN(CC1)CCCON | InChI=1S/C8H19N3O.3ClH/c1-10-4-6-11(7-5-10)3-2-8-12-9;;;/h2-9H2,1H3;3*1H
